US07648987B2
1-(8-Fluoro-2-phenyl-quinolin-7-yl)-3-([1,3,4]thiadiazol-2-ylsulfanyl)-imidazo[1,5-a]pyrazin-8-ylamine
A 10 mL microwave vessel was charged with a solution of 8-amino-1-(8-fluoro-2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazine-3-thione (20 mg, 0.00005 mol), 2-bromo-1,3,4-thiadiazole (0.017 g, 0.00010 mol) and potassium carbonate (0.021 g, 0.00015 mol) in DMF (1.4 mL, 0.018 mol). The reaction mixture was heated in the microwave at 100° C. for 10 min. The reaction mixture was concentrated in vacuo and purification by Gilson HPLC eluting with 10→65% acetonitrile: H2O afforded the title compound as a light yellow solid. 1H NMR (400 MHz, CDCl3): δ=7.31 (d, J=5.05 Hz, 1H), 7.47-7.58 (m, 3H), 7.69-7.80 (m, 3H), 8.05 (d, J=8.84 Hz, 1H), 8.24 (dd, J=8.34, 1.52 Hz, 2H), 8.32 (dd, J=8.72, 1.39 Hz, 1H), 9.07 (s, 1H). MS(ES+): m/z 472.13 (100)[MH+]. HPLC: tR=2.9 min (Open Lynx polar—5 min).

reactant | 8-amino-1-(8-fluoro-2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazine-3-thione | 0.00005 mol, 20 mg | NC=1C=2N(C=CN1)C(NC2C2=CC=C1C=CC(=NC1=C2F)C2=CC=CC=C2)=S | C21H14FN5S
reactant | 2-bromo-1,3,4-thiadiazole | 0.00010 mol, 0.017 g | BrC=1SC=NN1 | C2HBrN2S
reactant | potassium carbonate | 0.00015 mol, 0.021 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 0.018 mol, 1.4 mL | CN(C)C=O | C3H7NO
product | 1-(8-Fluoro-2-phenyl-quinolin-7-yl)-3-([1,3,4]thiadiazol-2-ylsulfanyl)-imidazo[1,5-a]pyrazin-8-ylamine | FC=1C(=CC=C2C=CC(=NC12)C1=CC=CC=C1)C=1N=C(N2C1C(=NC=C2)N)SC=2SC=NN2 | C23H14FN7S2
